US05639913
(rac)-N-(3-Cyanopropyl)-1-aminoindan
Potassium carbonate (15.5 g, 112 mmole) and 4-chlorobutyronitrile (11.58 g, 112 mmole) was added to a solution of 1-aminoindan (5.0 g, 37.6 mmole) in acetonitrile (50 ml), and the mixture refluxed for 2 hr. A second portion of 4-chlorobutyronitrile (5.0 g) was then added, the mixture further heated for 24 hr, filtered and the filtrate evaporated to dryness. Unreacted 4-chlorobutyronitrile was removed by treating the residue (20 g) with isopropanolic HCl (16.7 ml, 24%) followed by successive extractions with ether (3×150 ml). The crude product thus obtained was further purified by column chromatography (Silica, CH2Cl2 :MeOH 98:2) to afford 3.7 g (49%) of tan-colored crystalline mass.

reactant | Potassium carbonate | 112 mmole, 15.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorobutyronitrile | 112 mmole, 11.58 g | ClCCCC#N | C4H6ClN
reactant | 1-aminoindan | 37.6 mmole, 5.0 g | NC1CCC2=CC=CC=C12 | C9H11N
reactant | 4-chlorobutyronitrile | 5.0 g | ClCCCC#N | C4H6ClN
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (rac)-N-(3-Cyanopropyl)-1-aminoindan | C(#N)CCCNC1CCC2=CC=CC=C12 | C13H16N2
